US04859684
A mixture of 4.04 parts of 4-(1H-imidazol-1-ylmethyl)-N1 -methyl-1,2-benzenediamine, 3.6 parts of 1,1'-carbonylbis[1H-imidazole] and 80 parts of tetrahydrofuran was stirred for about 100 hours at room temperature. The formed precipitate was filtered off, washed with tetrahydrofuran, dried and purified twice by column chromatography over silica gel using each time a mixture of trichloromethane, methanol and methanol, saturated with ammonia (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The solid residue was crystallized from 2-propanol. The product was filtered off, washed with 2-propanol and 2,2'-oxybispropane, and dried, yielding 3.5 parts (77%) of 5-(1H-imidazol-1-ylmethyl)-1-methyl-1H-benzimidazol-2-ol; mp. 207.2° C. (compound 222).

reactant | 4-(1H-imidazol-1-ylmethyl)-N1 -methyl-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)NC)N | C11H14N4
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(1H-imidazol-1-ylmethyl)-1-methyl-1H-benzimidazol-2-ol | 77% | N1(C=NC=C1)CC1=CC2=C(N(C(=N2)O)C)C=C1 | C12H12N4O
